US05760021
II. Synthesis of Ethyl 2-Diethoxyphosphinyl-2-hydroxy -4-phthalimidobutanoate
A mixture of 13.76 g (0.05 mole) of ethyl 2-oxo-4-phthalimidobutanoate in 31 g (0.225 mole) of diethyl phosphite is stirred at 20°-30° for several days. The excess diethyl phosphite is removed on a rotary evaporator under vacuum at a bath temperature of 50°-70° to give the crude product. This is purified by chromatography on silica gel using chloroform/methanol as eluant.

reactant | ethyl 2-oxo-4-phthalimidobutanoate | 0.05 mole, 13.76 g | O=C(C(=O)OCC)CCN1C(C=2C(C1=O)=CC=CC2)=O | C14H13NO5
reactant | diethyl phosphite | 0.225 mole, 31 g | P(OCC)(OCC)[O-]
product | Ethyl 2-Diethoxyphosphinyl-2-hydroxy -4-phthalimidobutanoate | C(C)OP(=O)(C(C(=O)OCC)(CCN1C(C=2C(C1=O)=CC=CC2)=O)O)OCC | C18H24NO8P
